US06399627B1
To a solution of ethyl (Z) 3-(3-cyanophenyl)-4-bromo-2-butenoate (103 mg, 0.35 mmol) in 5 ml anhydrous di-methylformamide was added pyrazole (24 mg, 0.35 mmol) and cesium carbonate (228 mg, 0.7 mmol). Reaction mixture was stirred for 1.5 hours at room temperature after which 25 ml ethyl acetate was added. Organic was washed with 3×25 ml water, 3×50 ml saturated brine solution, dried over magnesium sulfate, filtered and concentrated to give ethyl (Z)-3-(3-cyanophenyl)-4-(1H-1-pyrazolyl)-2-butenoate (70 mg, 71%) as a brown residue which was sufficiently pure to be used without further purification. ES-MS (M+H+): 282.1

reactant | ethyl (Z) 3-(3-cyanophenyl)-4-bromo-2-butenoate | 0.35 mmol, 103 mg | C(#N)C=1C=C(C=CC1)/C(=C/C(=O)OCC)/CBr | C13H12BrNO2
reactant | pyrazole | 0.35 mmol, 24 mg | N1N=CC=C1 | C3H4N2
reactant | cesium carbonate | 0.7 mmol, 228 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
solvent | di-methylformamide | 5 ml | CN(C=O)C | C3H7NO
product | ethyl (Z)-3-(3-cyanophenyl)-4-(1H-1-pyrazolyl)-2-butenoate | 70 mg, 71% | C(#N)C=1C=C(C=CC1)/C(=C/C(=O)OCC)/CN1N=CC=C1 | C16H15N3O2
